US06630509B2
2-Ethoxy-3-{3-[3-(4-methylsulfonyloxyphenyl)propoxy]phenyl}propanol
The compound was synthesised in an analogous method to Example 1 using ethyl 2-ethoxy-3-{3-[3-(4-methylsulfonyloxyphenyl)propoxy]phenyl}propanoate (0.642 g, 1.42 mmol) and sodium borohydride (93.26 mg, 2.47 mmol). The reaction was quenched after 28 hours to give 0.574 g (yield 99%) of the desired product.

reactant | ethyl 2-ethoxy-3-{3-[3-(4-methylsulfonyloxyphenyl)propoxy]phenyl}propanoate | 1.42 mmol, 0.642 g | C(C)OC(C(=O)OCC)CC1=CC(=CC=C1)OCCCC1=CC=C(C=C1)OS(=O)(=O)C | C23H30O7S
reactant | sodium borohydride | 2.47 mmol, 93.26 mg | [BH4-].[Na+]
product | 2-Ethoxy-3-{3-[3-(4-methylsulfonyloxyphenyl)propoxy]phenyl}propanol | 0.574 g, yield 99% | C(C)OC(CO)CC1=CC(=CC=C1)OCCCC1=CC=C(C=C1)OS(=O)(=O)C | C21H28O6S
